### PR TITLE
[Merged by Bors] - feat: properties of graded rings indexed by canonically linearly ordered additive monoids

### PR DESCRIPTION
**Pull request by j-loreaux**
---

- [ ] depends on: #23883
- [ ] depends on: #23886

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 1]
```diff
@@ -428,3 +438,78 @@ theorem SetLike.Homogeneous.smul [CommSemiring S] [Semiring R] [Algebra S R] {A
...
+/-- The difference with `DirectSum.multisetProd_apply_eq_zero` is that the indices at which
+the terms of the multiset are zero is allowed to vary. -/
+theorem multisetProd_apply_eq_zero' {s : Multiset ((⨁ i, A i) × ℕ)}
+    (hs : ∀ xn ∈ s, ∀ k < xn.2, xn.1 k = 0) ⦃n : ℕ⦄ (hn : n < (s.map Prod.snd).sum)  :
+    (s.map Prod.fst).prod n = 0 := by
+  have := listProd_apply_eq_zero' (l := s.toList) (by simpa using hs)
+    (by simpa [← Multiset.sum_coe, ← Multiset.map_coe])
+  simpa [← Multiset.prod_coe, ← Multiset.map_coe]
+
+theorem multiProd_apply_eq_zero {s : Multiset (⨁ i, A i)} {m : ℕ}
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:496]:
```suggestion
theorem multisetProd_apply_eq_zero {s : Multiset (⨁ i, A i)} {m : ℕ}
```
and below

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 2]
```diff
@@ -168,6 +169,15 @@ theorem coe_mul_apply_eq_dfinsuppSum [AddMonoid ι] [SetLike.GradedMonoid A]
 @[deprecated (since := "2025-04-06")]
 alias coe_mul_apply_eq_dfinsupp_sum := coe_mul_apply_eq_dfinsuppSum
 
+open Finset in
+theorem coe_mul_apply_eq_sum_antidiagonal [AddMonoid ι] [HasAntidiagonal ι]
+    [SetLike.GradedMonoid A] (r r' : ⨁ i, A i) (n : ι) :
+    (r * r') n = ∑ ij ∈ antidiagonal n, (r ij.1 : R) * r' ij.2 := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:175]: Does this follow slightly more quickly from `coe_mul_apply`, which looks to already be basically the `Antidiagonal` spelling?

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 3]
```diff
@@ -428,3 +438,78 @@ theorem SetLike.Homogeneous.smul [CommSemiring S] [Semiring R] [Algebra S R] {A
...
+variable [Semiring R] [SetLike σ R] [AddSubmonoidClass σ R]
+variable {A : ℕ → σ} [SetLike.GradedMonoid A]
+
+theorem mul_apply_eq_zero {r r' : ⨁ i, A i} {m n : ℕ}
+    (hr : ∀ i < m, r i = 0) (hr' : ∀ i < n, r' i = 0) ⦃k : ℕ⦄ (hk : k < m + n) :
+    (r * r') k = 0 := by
+  rw [Subtype.ext_iff, ZeroMemClass.coe_zero, coe_mul_apply_eq_sum_antidiagonal]
+  apply Finset.sum_eq_zero fun x hx ↦ ?_
+  obtain (hx | hx) : x.1 < m ∨ x.2 < n := by simp at hx; omega
+  all_goals simp [hr, hr', hx]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:455]: This looks quite similar to some theorems we have about `MonoidAlgebra`, which are stated for more general classes of indices than just `Nat`. Can we write the same lemmas?

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Algebra/DirectSum/Internal.lean:175]: probably, will fix.

File: Mathlib/Algebra/DirectSum/Internal.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Algebra/DirectSum/Internal.lean:455]: I did actually try that, but I needed `LinearOrderedAddMonoid`, `Finset.HasAntidiagonal`, and at one point even `CanonicallyOrderedAdd`, and then only type we have satisfying all of these is `ℕ`, so I specialized.

However, with your above comment about `coe_mul_apply`, I'll revisit this.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/DirectSum/Internal.lean [hunk 4]
```diff
@@ -428,3 +438,93 @@ theorem SetLike.Homogeneous.smul [CommSemiring S] [Semiring R] [Algebra S R] {A
...
+variable [LinearOrderedAddCommMonoid ι] [DecidableEq ι]
+
+section Semiring
+
+variable [Semiring R] [SetLike σ R] [AddSubmonoidClass σ R]
+variable {A : ι → σ} [SetLike.GradedMonoid A]
+
+theorem mul_apply_eq_zero {r r' : ⨁ i, A i} {m n : ι}
+    (hr : ∀ i < m, r i = 0) (hr' : ∀ i < n, r' i = 0) ⦃k : ι⦄ (hk : k < m + n) :
+    (r * r') k = 0 := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Internal.lean:455]: @adomani, do we have this anywhere for `AddMonoidAlgebra`?

Comment (adomani) [reply Mathlib/Algebra/DirectSum/Internal.lean:455]: Are you thinking of something like [this](https://github.com/leanprover-community/mathlib4/pull/6633#discussion_r1297225421)?

Comment (adomani) [reply Mathlib/Algebra/DirectSum/Internal.lean:455]: Ah, I think that I found what I was looking for: [this comment of yours](https://github.com/leanprover-community/mathlib4/pull/6627#discussion_r1929335841).  I have not PRed this lemma, though.

**Comment by adomani** [comment]
Sorry for taking long: I think that this is good! If the other lemmas get PRed, we can always golf these proofs later on!

bors merge

**Comment by adomani** [comment]
It looks like this has incurred in some deprecations: I'll delegate instead!

bors d+

**Comment by j-loreaux** [comment]
bors merge
